US07291643B2
5-(4-amino-2-fluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (0.20 g, 0.93 mmol) was dissolved in pyridine (2.0 mL). Methanesulfonyl chloride (0.07 mL, 0.9 mmol) was added and the mixture was stirred for 16 hours, followed by the addition of water. The mixture was diluted with ethyl acetate and then was washed with water, saturated CuSO4, 2N HCl, brine, dried over MgSO4, and concentrated. The crude product was purified via Isco chromatography (the Redisep® column, silica, gradient 5-50% ethyl acetate in hexane) to afford 0.18 g of N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-3-fluorophenyl]methanesulfonamide.

reactant | 5-(4-amino-2-fluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.93 mmol, 0.20 g | NC1=CC(=C(C=C1)C1=CC=C(N1C)C#N)F | C12H10FN3
reactant | Methanesulfonyl chloride | 0.9 mmol, 0.07 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-3-fluorophenyl]methanesulfonamide | 0.18 g | C(#N)C1=CC=C(N1C)C1=C(C=C(C=C1)NS(=O)(=O)C)F | C13H12FN3O2S
